US07338968B2
To a stirred solution of 3-bromo-4-methoxythiophene (550 mg, 2.85 mmol), prepared in Step C above, in 30 mL of methylene chloride at −78° C. was added dropwise along the inside wall of the flask chlorosulfonic acid (0.48 mL, 7.21 mmol). The mixture was stirred at −78° C. for 10 min, continued at room temperature for 1 h, and filtered through a 1-in silica gel pad, rinsing with methylene chloride. The filtrate was concentrated in vacuuo to give 270 mg of 4-bromo-3-methoxy-2-thiophene sulfonylchloride (33%) as a light yellow oil.

reactant | 3-bromo-4-methoxythiophene | 2.85 mmol, 550 mg | BrC1=CSC=C1OC | C5H5BrOS
reactant | chlorosulfonic acid | 7.21 mmol, 0.48 mL | ClS(=O)(=O)O | ClHO3S
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-3-methoxy-2-thiophene sulfonylchloride | 270 mg, 33% | BrC=1C(=C(SC1)S(=O)(=O)Cl)OC | C5H4BrClO3S2
